US07868177B2
The mixture of 6,7-difluoro-N-(5-(3-(2-(methylsulfinyl)pyrimidin-4-yl)pyridin-2-yloxy)pyridin-2-yl)-1H-benzo[d]imidazol-2-amine and 6,7-difluoro-N-(5-(3-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2-yloxy)pyridin-2-yl)-1H-benzo[d]imidazol-2-amine (0.140 g, 0.28 mmol) in methylamine, 2.0 M solution in THF (2.1 ml, 4.2 mmol) was heated in a sealed tube to 70° C. After 4 h, the reaction was partitioned between EtOAc and 1 N NaOH, and the aqueous suspension was extracted 1×EtOAc, 3× dichloromethane, and the suspension was then filtered and rinsed with methanol. The solid material was combined with the combined organic layers adsorbed onto 2 g silica gel and purified with silica gel chromatography, eluting with 0-75% MC-90/10 MC/MeOH to give a white solid. The solid was sonicated in methanol and filtered, rinsing with Et2O. The resulting material was dried in vacuo to give 6,7-difluoro-N-(5-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)pyridin-2-yl)-1H-benzo[d]imidazol-2-amine as a white solid. MS m/z=447 [M+H]+. Calc'd for C22H16F2N8O: 446.4.

reactant | 6,7-difluoro-N-(5-(3-(2-(methylsulfinyl)pyrimidin-4-yl)pyridin-2-yloxy)pyridin-2-yl)-1H-benzo[d]imidazol-2-amine | FC=1C=CC2=C(NC(=N2)NC2=NC=C(C=C2)OC2=NC=CC=C2C2=NC(=NC=C2)S(=O)C)C1F | C22H15F2N7O2S
reactant | 6,7-difluoro-N-(5-(3-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2-yloxy)pyridin-2-yl)-1H-benzo[d]imidazol-2-amine | 0.28 mmol, 0.140 g | FC=1C=CC2=C(NC(=N2)NC2=NC=C(C=C2)OC2=NC=CC=C2C2=NC(=NC=C2)S(=O)(=O)C)C1F | C22H15F2N7O3S
reactant | THF | 4.2 mmol, 2.1 ml | C1CCOC1 | C4H8O
solvent | methylamine | CN | CH5N
solvent | methanol | CO | CH4O
product | 6,7-difluoro-N-(5-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)pyridin-2-yl)-1H-benzo[d]imidazol-2-amine | FC=1C=CC2=C(NC(=N2)NC2=NC=C(C=C2)OC2=NC=CC=C2C2=NC(=NC=C2)NC)C1F | C22H16F2N8O
